US07112589B2
To 10 ml of 1,4-dioxan is added 0.645 g (3.0 mmol) of methyl-4-bromobenzoate 0.519 g (3.6 mmol) of 1-(2-methoxy-ethyl-piperazine, 0.892 g (8.47 mmol) of potassium phosphate, 0.177 g (0.45 mmol) of 2-dicycohexylphosphino-2′-(N,N-dimethylamino)biphenyl and 0.137 g (0.15 mmol) tris-(benzylideneacetone)palladium (0). The resulting reaction mixture is stirred under argon for 5 hours at 100° C., then cooled to room temperature, diluted with ethyl acetate and filtered. The filtrate is washed once with H2O and once with brine, the organic layer separated and dried over Na2SO4. Purification of the crude product by flash chromatography (dichloromethane/methanol) yields 0.52 g of 4-[4-(2-methoxy-ethyl)-piperazin-1-yl)]benzoic acid methyl ester as a solid.

reactant | 1,4-dioxan | 10 ml | O1CCOCC1 | C4H8O2
reactant | methyl-4-bromobenzoate | 3.0 mmol, 0.645 g | COC(C1=CC=C(C=C1)Br)=O | C8H7BrO2
reactant | 2-methoxy-ethyl-piperazine | COCCN1CCNCC1 | C7H16N2O
reactant | potassium phosphate | 8.47 mmol, 0.892 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | benzoic acid methyl ester | COC(C1=CC=CC=C1)=O | C8H8O2
